US07994324B2
rac-N2-(6-Methoxy-indan-1-yl)-N5-(3-methylsulfanyl-propyl)-quinoline-2,5-diamine
The title compound, MS: m/e=394.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, 6-methoxyindan-1-ylamine (CAS 103028-81-5) and 3-(methylthio)propylamine.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 6-methoxyindan-1-ylamine | COC1=CC=C2CCC(C2=C1)N | C10H13NO
reactant | 3-(methylthio)propylamine | CSCCCN | C4H11NS
product | rac-N2-(6-Methoxy-indan-1-yl)-N5-(3-methylsulfanyl-propyl)-quinoline-2,5-diamine | COC1=CC=C2CCC(C2=C1)NC1=NC=2C=CC=C(C2C=C1)NCCCSC | C23H27N3OS
